US05723485
123 g (0.92 mol) of AlCl3 are added with a spatula to a mixture of 100 g (0.8 mol) of thioanisole, 750 ml of CH2Cl2 and 63 ml (0.9 mol) of acetyl chloride, cooled to 0° C. beforehand, said addition being carried out so that the temperature does not exceed 10° C. The mixture is stirred for 1 h at room temperature, heated for 1 h at 40° C. and then poured into 800 ml of an ice/water mixture. The resulting mixture is separated and extracted with CH2Cl2. The organic phases are combined, washed with water and then dried over MgSO4 and concentrated to give 117.1 g of 4-(methylthio)acetophenone.

reactant | AlCl3 | 0.92 mol, 123 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | thioanisole | 0.8 mol, 100 g | C1(=CC=CC=C1)SC | C7H8S
reactant | acetyl chloride | 0.9 mol, 63 ml | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 750 ml | C(Cl)Cl | CH2Cl2
product | 4-(methylthio)acetophenone | 117.1 g | CC(=O)C1=CC=C(C=C1)SC | C9H10OS
